US08008525B2
[2-(Cyclopentyloxy)phenyl]methanol
Salicylaldehyde (1.0 g, 8.2 mmol) was dissolved in DMF (10 mL), cyclopentyl bromide (1.76 mL, 16.4 mmol) and sodium hydride (394 mg, 9.8 mmol) were added thereto, and then the mixture was stirred at room temperature for 2 hours. To the reaction solution was added water, and the reaction mixture was extracted with ethyl acetate. The extract was dried, and then concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane/ethyl acetate=100:0 to 90:10) to give an oily matter. The resulting oily matter was dissolved in methanol (10 mL), sodium borohydride (620 mg, 16.4 mmol) was added thereto, and then the mixture was stirred at room temperature for 2 hours. The residue was purified with silica gel column chromatography (hexane/ethyl acetate=100:0 to 70:30) to give the title compound (349 mg, yield 25%).

reactant | Salicylaldehyde | 8.2 mmol, 1.0 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | cyclopentyl bromide | 16.4 mmol, 1.76 mL | C1(CCCC1)Br | C5H9Br
reactant | sodium hydride | 9.8 mmol, 394 mg | [H-].[Na+]
reactant | sodium borohydride | 16.4 mmol, 620 mg | [BH4-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | methanol | 10 mL | CO | CH4O
solvent | water | O | H2O
product | [2-(Cyclopentyloxy)phenyl]methanol | 349 mg, yield 25% | C1(CCCC1)OC1=C(C=CC=C1)CO | C12H16O2
